US08304419B2
Step B: 1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-[(methylsulfonyl)amino]-1H-indole-2-carboxylic acid
Lithium hydroxide (0.068 g, 2.85 mmol) was added to a solution of 1-(1,1-dimethylethyl)2-ethyl 6-[(methylsulfonyl)amino]-1H-indole-1,2-dicarboxylate (0.109 g, 0.285 mmol) in THF:methanol:water/3:1:1 (3 mL). The mixture was heated at 50° C. for 2 hrs. The solvent was evaporated and the residue was dissolved in water, acidified with 1N aqueous HCl and extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate and concentrated to give the title compound (0.040 g, 55%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.92 (br. s., 1H), 11.41-11.79 (m, 1H), 9.32-9.73 (m, 1H), 7.48-7.57 (m, 1H), 7.31 (s, 1H), 6.94-7.00 (m, 1H), 6.88-6.94 (m, 1H), 2.88 (s, 3H). ES MS: m/z 253 (M−1).

reactant | Lithium hydroxide | 2.85 mmol, 0.068 g | [OH-].[Li+]
reactant | 1-(1,1-dimethylethyl)2-ethyl 6-[(methylsulfonyl)amino]-1H-indole-1,2-dicarboxylate | 0.285 mmol, 0.109 g | CS(=O)(=O)NC1=CC=C2C=C(N(C2=C1)C(=O)OCCC(C)(C)C)C(=O)[O-]
reactant | methanol | CO | CH4O
reactant | water | 3 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-[(methylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.040 g, 55% | CC(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)NS(=O)(=O)C)C(=O)O | C15H18N2O6S
